US06307047B1
2-(3-Chlorophenyl)-4-(phenylmethylthio)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
To a stirred suspension of 2-(3-chlorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone, prepared in Example 333, (0.175 g, 0.33 mmol) in THF (3.3 mL) was added benzyl mercaptan (0.04 mL, 0.33 mmol) and TEA (0.046 mL, 0.33 mmol). The resulting solution was stirred at room temperature under nitrogen for 1 hour. The mixture was poured into H2O and extracted with ethyl acetate. The combined organics were dried over MgSO4 and concentrated in vacuo. The resulting crude product was purified using flash chromatography (SiO2, 2:1 hexanes:ethyl acetate) to provide the desired product (yield: 0.136 g 85%). mp 142-145° C. 1H NMR (300 MHz, DMSO d6) δ 3.31 (s, 3H), 4.36 (s, 2H), 7.17 (m, 2H), 7.21-7.33 (m, 3H), 7.51 (m, 2H), 7.57-7.64 (m, 3H), 7.74 (m, 1H), 8.01 (m, 2H). MS (DCI/NH3) m/z 483 (M+H)+, 500 (M+NH4)+. Anal. calc. for C24H19ClN2O3S2: C, 59.68; H, 3.96; N, 5.80. Found: C, 59.40; H, 4.11; N, 5.71.

reactant | 2-(3-chlorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | ClC=1C=C(C=CC1)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H19ClN2O6S2
reactant | benzyl mercaptan | 0.33 mmol, 0.04 mL | C(C1=CC=CC=C1)S | C7H8S
reactant | H2O | O | H2O
solvent | THF | 3.3 mL | C1CCOC1 | C4H8O
product | 2-(3-Chlorophenyl)-4-(phenylmethylthio)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | yield: 0.136 g, 85% | ClC=1C=C(C=CC1)N1N=CC(=C(C1=O)SCC1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H19ClN2O3S2
